US07115611B2
A] 2-Methyl-2-{2-methyl-4-[2-methyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-ylmethoxy]-phenoxy}-propionic acid ethyl ester
To an ice cold solution of 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (35 mg, 147 μmol; described in WO 02/092590), [2-methyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-yl]-methanol (52 mg, 148 μmol, example 112E]) and tributylphosphine (50 μl, 178 μmol) in tetrahydrofuran (3.5 ml) was added N,N,N′,N′-tetramethyl azodicarboxamide (30 mg, 178 mmol). The cooling bath was removed and stirring continued for 14 h. The mixture was filtered over celite and the solvent removed under reduced pressure to give a yellow oil which was purified by column chromatography (silica gel, heptane/AcOEt) to give 63 mg (110 μmol, 75%) of the title compound as colorless oil.

reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 147 μmol, 35 mg | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | [2-methyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-yl]-methanol | CC1=NC(=CC(=C1CO)C(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F | C15H11F6NO2
reactant | tributylphosphine | 178 μmol, 50 μl | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N,N,N′,N′-tetramethyl azodicarboxamide | 178 mmol, 30 mg | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
product | 2-Methyl-2-{2-methyl-4-[2-methyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-ylmethoxy]-phenoxy}-propionic acid ethyl ester | 110 μmol, 63 mg, 75% | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCC=1C(=NC(=CC1C(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F)C)C)C)=O | C28H27F6NO5
